US06930120B2
2-{4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-hexanoic acid
Standard Procedure (B) was utilized to prepare the title compound from 2-(4-hydroxybenzyl)-2-phenoxy-hexanoic acid ethyl ester and toluene-4-sulfonic acid 2-(2-phenyl-5-methyl-oxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3) δ 7.97-7.94 (m, 2H), 7.42-7.40 (m, 3H), 7.31-7.27 (m, 2H), 7.06 (t, 1H, J=7.43 Hz), 6.98 (t, 4H, J=8.99 Hz), 6.75 (d, 2H, J=8.60 Hz), 4.17 (t, 2H, J=6.65 Hz), 3.29 (s, 2H), 2.96 (t, 2H, J=6.65 Hz), 2.36 (s, 3H), 2.10-1.98 (m, 2H), 1.42-1.16 (m, 4H), 0.79 (t, 3H, J=7.04 Hz); MS (ES+) calcd for C31H34NO5: Found m/e 500.2 (M+1, 100%).

reactant | 2-(4-hydroxybenzyl)-2-phenoxy-hexanoic acid ethyl ester | C(C)OC(C(CCCC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C21H26O4
reactant | toluene-4-sulfonic acid 2-(2-phenyl-5-methyl-oxazol-4-yl)-ethyl ester | C1(=CC=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H19NO4S
product | 2-{4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-hexanoic acid | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC(C(=O)O)(CCCC)OC2=CC=CC=C2)C=C1 | C31H33NO5
